US08293837B2
In 84 g of dimethyl sulfoxide (manufactured by Wako Pure Chemical Industries, Ltd.) were dissolved 15 g of 9(10H) acridone (manufactured by Wako Pure Chemical Industries, Ltd.) and 3.4 g of sodium hydroxide (manufactured by Wako Pure Chemical Industries, Ltd.) and the resultant was heated at 45° C. Thereto was dropwise added 17.6 parts by weight of CMS-P (chloromethylstyrene, manufactured by AGC SEIMI CHEMICAL CO., LTD.) and the resultant was further heated and stirred at 50° C. for 5 hours. This reaction liquid was poured into a mixed solution of 30 g of distilled water and 30 g of methanol (manufactured by Wako Pure Chemical Industries, Ltd.) while stirring. The resulting precipitate was separated by filtration and washed with 300 g of a mixed solution of distilled water and methanol at equal weights. The resulting solid was dried under reduced pressure to give 17.5 g of 10-[(styrenyl)methyl]-9-acridanone as a pale yellow solid. Then, 175 g of N-methylpyrrolidone (manufactured by Wako Pure Chemical Industries, Ltd.) was added to the 17.5 g of 10-[(styrenyl)methyl]-9-acridanone and 60.9 g of thioglycerol (manufactured by Sigma Aldrich Co.). This mixture was heated to 65° C. under a nitrogen atmosphere and stirred for 30 minutes, and then 0.14 g of V-65 (2,2′-azobis(2,4-dimethylvaleronitrile) (manufactured by Wako Pure Chemical Industries, Ltd.) was added thereto and stirred for 2 hours. To this reaction solution was added 500 g of a mixed solvent of water and methanol (1:1 in weight ratio). The precipitated crystal was separated by filtration and washed with 100 g of methanol. The resulting solid was dried under reduced pressure to give 22.0 g of Compound M-1 as a pale yellow solid.

reactant | 9(10H) acridone | 15 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | chloromethylstyrene | ClCC=CC1=CC=CC=C1 | C9H9Cl
reactant | water | 30 g | O | H2O
solvent | dimethyl sulfoxide | 84 g | CS(=O)C | C2H6OS
solvent | methanol | 30 g | CO | CH4O
product | 10-[(styrenyl)methyl]-9-acridanone | 17.5 g | C(=CC1=CC=CC=C1)CN1C=2C=CC=CC2C(C2=CC=CC=C12)=O | C22H17NO
